US04239891
2,2,6,6-Tetramethyl-4-hydroxy-4-tert.-butylcarbamoyl piperidine
54.6 g 2,2,6,6-Tetramethyl-4-hydroxy-4-cyanopiperidine together with 45 g tert.-butanol in 200 ml glacial acetic acid are introduced into the reactor. Subsequently, 60 g concentrated sulfuric acid are added dropwise with agitation, and agitation is continued for 2 hours at 70° C., thus forming a precipitate which is filtered off and dissolved in water. On alkalization with NaOH, the product precipitates, it is suction-filtered and recrystallized from ethyl acetate. Yield 44 g, m.p. 134°-136° C.

reactant | 2,2,6,6-Tetramethyl-4-hydroxy-4-cyanopiperidine | 54.6 g | CC1(NC(CC(C1)(C#N)O)(C)C)C | C10H18N2O
reactant | tert.-butanol | 45 g | C(C)(C)(C)O | C4H10O
reactant | sulfuric acid | 60 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2,2,6,6-Tetramethyl-4-hydroxy-4-tert.-butylcarbamoyl piperidine | CC1(NC(CC(C1)(C(NC(C)(C)C)=O)O)(C)C)C | C14H28N2O2
